US07667041B2
Synthesis of (1R)-(4-fluoro-3-methoxyphenyl)ethanol
A solution of 4-fluoro-3-methoxyacetophenone (1 g) in THF (10 mL) was added dropwise to a solution of (+)-DIPCl™ (2.29 g) in THF (30 mL) in a nitrogen atmosphere at −20° C., and the reaction solution was stirred at −20° C. for 5 hours. The reaction solution was heated to room temperature, and the solvent was evaporated under reduced pressure. The residue was diluted with an ether, diethanolamine (1.25 mL) was added to the diluent, and the reaction solution was stirred at room temperature overnight. The reaction solution was filtered on a celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate system) to obtain 918 mg of the title compound. The physical properties of the compound are as follows.

reactant | 4-fluoro-3-methoxyacetophenone | 1 g | CC(=O)C1=CC(=C(C=C1)F)OC | C9H9FO2
reactant | (+)-DIPCl | B([C@H]1C[C@@H]2C[C@H]([C@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@H]([C@H]3C)C4(C)C)Cl | C20H34BCl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (1R)-(4-fluoro-3-methoxyphenyl)ethanol | 918 mg | FC1=C(C=C(C=C1)[C@@H](C)O)OC | C9H11FO2
